US07390903B2
To a stirred solution of 50 mg (0.19 mmol) (2-amino-4,5,6,7-tetrahydro-benzo[b]thiophen-3-yl)-thiophen-2-yl-methanone in 1.5 ml acetic acid was added 0.024 ml (0.20 mmol) of 1,1,1-trifluoro-pentane-2,4-dione and one drop of sulfuric acid. The mixture was then stirred at 100° C. for 10 minutes in a microwave and then concentrated in vacuo. Flash chromatography (heptane/ethyl acetate 9:1) afforded 17 mg (23%) 2,2,2-trifluoro-1-(2-methyl-4-thiophen-2-yl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl)-ethanone as an orange oil. ES-MS m/e (%): 382 (M+H+, 100).

reactant | (2-amino-4,5,6,7-tetrahydro-benzo[b]thiophen-3-yl)-thiophen-2-yl-methanone | 0.19 mmol, 50 mg | NC1=C(C2=C(S1)CCCC2)C(=O)C=2SC=CC2 | C13H13NOS2
reactant | 1,1,1-trifluoro-pentane-2,4-dione | 0.20 mmol, 0.024 ml | FC(C(CC(C)=O)=O)(F)F | C5H5F3O2
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 2,2,2-trifluoro-1-(2-methyl-4-thiophen-2-yl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl)-ethanone | 17 mg, 23% | FC(C(=O)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C=1SC=CC1)(F)F | C18H14F3NOS2
